US04018930
(±)-5-(trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepin-3-yl)-2-pentanone
3.6 grams of potassium iodide and 12 ml. of triethylamine were added to a solution of 5.5 grams of (±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]=indolo[1,7-ab][1]benzazepine in 50 ml. DMF, followed by addition of 3.7 grams of 5-chloro-2-pentanone ethylene ketal. The mixture was heated at approximately 62° C for 20 hours. The mixture was then poured into water, extracted with benzene, and chromatographed through basic alumina to eliminate remaining benzazepine starting material. The resulting ketal was dissolved in ether. HCl gas was bubbled through this solution to precipitate the hydrochloride salt of the title compound. Recrystallization from ethanol yielded 350 mg. of the title compound, hydrochloride salt, m.p. 258°-259° C(dec).

reactant | potassium iodide | 3.6 grams | [I-].[K+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | indolo[1,7-ab][1]benzazepine | C1=CC2=CC=CC3=C2N1C1=C(C=C3)C=CC=C1 | C16H11N
reactant | 5-chloro-2-pentanone ethylene ketal | 3.7 grams | C1COC(C)(CCCCl)O1 | C7H13ClO2
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (±)-5-(trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepin-3-yl)-2-pentanone | C1CC(CC2/C=C/C=3C=4N(C21)C2=C(C4CCC3)C=NC=C2)CCCC(C)=O | C24H28N2O
